US08530099B2
Methyl chloroformate (130 mL, 159 g, 1.68 mol) was added slowly over a period of 3 h to a solution of 2,2,3,3-tetrafluoropropanol (132 g, 1.00 mol) in pyridine (300 mL, anhydrous) at −10° C. to 0° C. with magnetic stirring. The reaction mixture was stirred at room temperature overnight. Then, the reaction mixture was mixed with 5% HCl (500 mL) and approximately 50 g of ice, and the resulting mixture was extracted three times with 300 mL portions of ether. The combined organic layer was washed three times with 100 mL portions of 5% HCl, followed by two washes with 100 mL portions of 5% sodium carbonate. The organic phase was then dried over anhydrous sodium sulfate. Ether was removed by rotary evaporation. The crude product (approximately 200 g) was distilled, yielding 166 g (87% yield) of pure methyl 2,2,3,3-tetrafluoropropyl carbonate, also referred to herein as “FS-C”. NMR analysis data were consistent with the literature values (U.S. Pat. No. 5,659,062).

reactant | Methyl chloroformate | 1.68 mol, 130 mL, 159 g | ClC(=O)OC | C2H3ClO2
reactant | 2,2,3,3-tetrafluoropropanol | 1.00 mol, 132 g | FC(CO)(C(F)F)F | C3H4F4O
reactant | HCl | 500 mL | Cl | ClH
solvent | pyridine | 300 mL | N1=CC=CC=C1 | C5H5N
product | methyl 2,2,3,3-tetrafluoropropyl carbonate | 166 g, 87% yield | C(OC)(OCC(C(F)F)(F)F)=O | C5H6F4O3
